US08211890B2
24.i. 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxylic acid
To a solution of 2,3-dihydro-[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde (722 mg, 4.37 mmol) in 2-methyl-2-propanol (95 mL) and 2-methyl-2-butene (22 mL) was added dropwise a solution of sodium chlorite (80%, 4.55 g, 40.22 mmol) and sodium dihydrogenphosphate (3.65 g, 26.45 mmol) in water (35 mL). The resulting solution was stirred at rt for 19 h. The volatiles were removed under reduced pressure. The residue was diluted with water (20 mL) and pH was adjusted to 3 by addition of 1N HCl. The aq. layer was extracted with DCM-MeOH 9-1 (25×30 mL). The combined extracts were dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was triturated in ether and filtered to give the title acid as a white solid (0.405 g, 51% yield).

reactant | 2,3-dihydro-[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde | 4.37 mmol, 722 mg | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium chlorite | 40.22 mmol, 4.55 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 26.45 mmol, 3.65 g | P(=O)(O)(O)[O-].[Na+]
solvent | 2-methyl-2-propanol | 95 mL | CC(C)(C)O | C4H10O
solvent | 2-methyl-2-butene | 22 mL | CC(C)=CC | C5H10
solvent | water | 35 mL | O | H2O
product | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxylic acid | 0.405 g, 51% yield | O1CCOC=2C=NC(=CC21)C(=O)O | C8H7NO4
